US04902801
(±)-trans-3-Ethoxycarbonyl-4-(4'-fluorophenyl) piperidin-2,6-dione (E1)
Potassium t-butoxide (1.01 g) was added to a solution of ethyl amidomalonate (1.38 g) in tetrahydrofuran (38 ml) maintained at 33°. After cooling to 25°, ethyl 4-fluorocinnamate (1.50 g) was added and the mixture stirred overnight at room temperature. Brine was added, the mixture extracted with ethyl acetate (3×60 ml) and the organic solution dried and evaporated to give the crude product. This was chromatographed on silica gel, using dry ether as eluent, to give the title compound (0.92 g, 43%), m.p. 97°-99°.

reactant | Potassium t-butoxide | 1.01 g | CC(C)([O-])C.[K+]
reactant | ethyl amidomalonate | 1.38 g | CC(=O)NC(C(=O)[O-])C(=O)[O-]
reactant | ethyl 4-fluorocinnamate | 1.50 g | FC1=CC=C(C=CC(=O)OCC)C=C1 | C11H11FO2
solvent | tetrahydrofuran | 38 ml | O1CCCC1 | C4H8O
solvent | Brine | [Cl-].[Na+].O
product | (±)-trans-3-Ethoxycarbonyl-4-(4'-fluorophenyl) piperidin-2,6-dione | 0.92 g, 43% | C(C)OC(=O)[C@@H]1C(NC(C[C@H]1C1=CC=C(C=C1)F)=O)=O | C14H14FNO4
